US06316494B1
(+,−) cis [4-(7-Hydroxy-3-phenyl-chroman-4-yl)-phenoxy]-acetic acid
(+,−) cis [4-(7-Hydroxy-3-phenyl-chroman-4-yl)-phenoxy]-acetic acid methyl ester (30 mg, 0.077 mmol) was stirred in 2N potassium hydroxide in methanol (1 ml) for 120 min. The reaction mixture was acidified by 1 N hydrochloric acid (2.5 ml), and stirring continued for 60 min. The precipitated product was filtered, washed with water and vacuum dried with sicapent (Merck) at 50° C. overnight.

reactant | (+,−) cis [4-(7-Hydroxy-3-phenyl-chroman-4-yl)-phenoxy]-acetic acid methyl ester | 0.077 mmol, 30 mg | COC(COC1=CC=C(C=C1)[C@@H]1[C@@H](COC2=CC(=CC=C12)O)C1=CC=CC=C1)=O | C24H22O5
reactant | hydrochloric acid | 1 N, 2.5 ml | Cl | ClH
solvent | potassium hydroxide | 2N | [OH-].[K+]
solvent | methanol | 1 ml | CO | CH4O
product | (+,−) cis [4-(7-Hydroxy-3-phenyl-chroman-4-yl)-phenoxy]-acetic acid | OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(OCC(=O)O)C=C1 | C23H20O5
